US03951983
A solution consisting of 45 g. of 1-(2-carbamoylphenoxy)-3-[4-(2-methoxyphenyl)piperazinyl]propan-2-ol dissolved in 200 ml. of 40% aqueous hydrochloric acid was refluxed for a period of 2 hours and then allowed to cool to room temperature. Upon completion of this step, the resulting reaction mixture was adjusted to approximately pH 6-7 with aqueous potassium carbonate and the solid material which precipitated at this point was thereafter collected by means of suction filtration and subsequently recrystallized from aqueous ethanol to afford pure 1-(2-carboxyphenoxy)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-2-ol, m.p. 198°-202°C. (analytical sample). The yield of crude product before recrystallization was 44 g. (98%).

reactant | 1-(2-carbamoylphenoxy)-3-[4-(2-methoxyphenyl)piperazinyl]propan-2-ol | C(N)(=O)C1=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O)C=CC=C1 | C21H27N3O4
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-(2-carboxyphenoxy)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-2-ol | C(=O)(O)C1=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O)C=CC=C1 | C21H26N2O5
